US05863947
A solution of 5-(2-methyl-3,5-dibenzyloxyphenyl)-hydantoin (1.13 g, 2.8 mmol) in methanol (100 ml) was shaken in a Parr hydrogenation apparatus at 60 p.s.i. over 10% Palladium/charcoal (120 mg) for 6 hours. The reaction suspension was filtered over celite and the filtrate evaporated in vacuo to give 5-(2-methyl-3,5-dihydroxyphenyl)-hydantoin as an off-white solid.

reactant | 5-(2-methyl-3,5-dibenzyloxyphenyl)-hydantoin | 2.8 mmol, 1.13 g | CC1=C(C=C(C=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1C(NC(N1)=O)=O | C24H22N2O4
solvent | methanol | 100 ml | CO | CH4O
catalyst | Palladium/charcoal | 120 mg | [Pd] | Pd
product | 5-(2-methyl-3,5-dihydroxyphenyl)-hydantoin | CC1=C(C=C(C=C1O)O)C1C(NC(N1)=O)=O | C10H10N2O4
